Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PODIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Right foot fractures, open first metatarsal fractures
 
Major Surgical or Invasive Procedure:
___: washout of right first metatarsal open fracture with 
closure

 
History of Present Illness:
___ female presents as a transfer from ___
for right foot open fracture.  Last night patient believes she
fell asleep at the wheel and totaled her car after crashing in
the 2 trees.  She noticed severe pain to her right foot.  She 
was
taken to ___ where she had a CT head and C-spine
both of which were negative.  Given her open fracture she was
transferred here to ___ for further management.  Patient 
states
she had 2 alcoholic drinks earlier in the night but did not feel
him.  While driving other than being sleepy.  Patient was
evaluated by our trauma team and emergency staff.  No other 
acute
injuries were found other than the right foot open fractures. 
Patient complains of swelling and pain to the right foot and
ankle.  Outside hospital radiographs revealed multiple foot
fractures without any obvious fractures of the ankle or leg. 
Patient denies any headache or impaired vision.  Patient denies
any current fevers, chills, nausea, vomiting.
 
Past Medical History:
APPENDECTOMY                                                    
OVARIAN CYSTS                                                   
CHOLELITHIASIS                                                  
DEPRESSION                                                      
ABNORMAL PAP SMEAR 
 
Social History:
___
Family History:
n/c
 
Physical Exam:
Admission PHYSICAL EXAMINATION:  
Vitals: AFVSS  
___: A&Ox3, NAD, visibly emotional
HEENT: PERRLA, CNII-XII intact, Full neck ROM without pain or
tenderness
HEART: RRR, No m/g/r
LUNGS:CTAB, No resp distress
ABD: Soft, Nontender, Nondistended, no signs of fluid 
collections
Pelvic: No tenderness on palpation, no visible bruising
MSK: Superficial abrasion to left nipple area, Bruising to right
hip area, superficial abrasion to right anterior knee. Upper
extremity with full muscle strength and SILT, no TTP of entire
upper extremity region
Lower Extremity Focused Exam: 
Full Hip ROM without pain 
Pulses palpable. Cap refill <3sec to all digits. Right foot with
diffuse edema of entire foot/ankle with ecchymosis. Able to
wiggle all digits. Right full thickness wound dorsal medial 
wound
1cm in length, appears to have extension to deeper tissue and
possibly bone, surrounding focal hematoma, wound clean appearing
with debris or drainage. Severe TTP to all portions of the foot.
Foot compartments are soft. SITL to all portions of the foot and
ankle  

Discharge Physical Exam
PHYSICAL EXAMINATION:  
Vitals: AFVSS  
___: A&Ox3, NAD, visibly emotional
HEENT: PERRLA, CNII-XII intact, Full neck ROM without pain or
tenderness
HEART: RRR, No m/g/r
LUNGS:CTAB, No resp distress
ABD: Soft, Nontender, Nondistended, no signs of fluid 
collections
Pelvic: No tenderness on palpation, no visible bruising
MSK: Superficial abrasion to left nipple area, Bruising to right
hip area, superficial abrasion to right anterior knee. Upper
extremity with full muscle strength and SILT, no TTP of entire
upper extremity region
Lower Extremity Focused Exam: 
Full Hip ROM without pain 
RLE with AO splint intact. Toe visible with gross sensation 
intact. Patient able to wiggle all toes. CFT <3 seconds to the 
digits
 
Pertinent Results:
___ 05:37AM BLOOD WBC-11.9* RBC-4.22 Hgb-12.6 Hct-38.1 
MCV-90 MCH-29.9 MCHC-33.1 RDW-13.2 RDWSD-43.5 Plt ___
___ 05:37AM BLOOD Neuts-74.3* Lymphs-16.1* Monos-7.2 
Eos-1.3 Baso-0.8 Im ___ AbsNeut-8.83* AbsLymp-1.92 
AbsMono-0.86* AbsEos-0.15 AbsBaso-0.09*
___ 05:37AM BLOOD Glucose-91 UreaN-10 Creat-0.8 Na-144 
K-4.6 Cl-109* HCO3-22 AnGap-13
___ 05:37AM BLOOD ASA-NEG Ethanol-63* Acetmnp-NEG 
Tricycl-NEG
___ 05:49AM BLOOD Lactate-1.5

Imaging:

Right foot x-ray: 
Transverse butterfly fragment distal to the ___ met base. Not
optimal view but possible bony irregularity noted in the lateral
navicular and cuboid region. There is also concern for subtle
fracture at the level of the cuneiforms

CT: Right Foot/Ankle
1. Comminuted fracture of the proximal first metatarsal shaft.
2. Comminuted fracture at the base of the second metatarsal and
involving the medial cuneiform
3. Obliquely oriented fracture of the medial base of the third
metatarsal
4. Comminuted, mildly displaced fracture of the lateral 
navicular
5. Obliquely oriented fracture through the dorsal lateral
cuneiform.
6. Comminuted fracture of the cuboid.
7. Extensive soft tissue swelling about the ankle and foot.
8. Fracture noted to the medial aspect portion of the navicular
9. Fracture of the posterolateral talar dome 
 
 
Brief Hospital Course:
___ presented to emergency room on 81/0 as a transfer from 
___ following a motor vehicle accident in which she 
ran into a tree.  She was noted to have an open fracture to her 
right foot as well as fractures noted to metatarsals ___, all 
cuneiforms, navicular, cuboid and talus. She was initially 
evaluated at ___ where she obtained CT head and 
spine which were both negative.  Once patient was transferred 
they were evaluated by our trauma and emergency teams without 
significant pathology other than right foot fractures.  Upon our 
evaluation patient is
noted to have an open fracture to the right dorsal medial foot 
in the area of his first metatarsal fracture.  Patient has 
significant comminuted fractures throughout the entire mid and 
rear foot, fractures are not significantly displaced and length
of the foot appears intact.   
Patient was started on IV Ancef since initial evaluation and has 
continue throughout admission.   Given clearance from the 
emergency and trauma teams for no other acute trauma other than 
a right foot fracture, The patient was admitted to the podiatric 
surgical service. 
She was evaluated by anesthesia and taken to the operating room 
for a right foot open first metatarsal fracture I&D and closure. 
For details of the procedure, please see the operative report in 
___. After the procedure the patient was taken to the PACU for 
recovery and then transferred to the ward when deemed stable. 
Post-operatively, all vitals signs were stable. The patients ins 
and outs were closely monitored and deemed adequate. POD 1 the 
patient worked with physical therapy to be NWB on her RLE with 
crutches and they cleared her for home discharged. Her pain was 
controlled initially with IV and oral pain medications and just 
oral medications prior to discharge. 
She was subsequently discharged on POD1 to home. She is to be 
NWB on her RLE. He post-trauma and operative pain regimen with 
discussed with the patient in detail. She was advised to follow 
up with her primary care physician in the week after discharged. 
Post-operative and and post-trauma risks were discussed with the 
patient in detail and she expressed understanding. Discharge 
teaching and instructions were provided to the patient and she 
expressed understanding. 
 
Medications on Admission:
 
Medications - Prescription
CLONAZEPAM - clonazepam 0.5 mg tablet. ___ tablet(s) by mouth
once a day as needed for anxiety
ERGOCALCIFEROL (VITAMIN D2) - ergocalciferol (vitamin D2) 50,000
unit capsule. 1 capsule(s) by mouth weekly Take weekly for 8
weeks
ONDANSETRON HCL - ondansetron HCl 4 mg tablet. 1 tablet(s) by
mouth every eight (8) hours as needed for nausea
VENLAFAXINE - venlafaxine ER 150 mg capsule,extended release 24
hr. 1 capsule(s) by mouth once a day
 
Medications - OTC
ASCORBIC ACID (VITAMIN C) [VITAMIN C] - Dosage uncertain - 
(Prescribed by Other Provider)
LACTOBACILLUS COMBINATION NO.4 [PROBIOTIC] - Dosage uncertain - 
(OTC)
--------------- --------------- --------------- ---------------
 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q6H  
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate [Augmentin] 875 mg-125 mg 1 
tablet(s) by mouth every twelve (12) hours Disp #*14 Tablet 
Refills:*0 
3.  Gabapentin 300 mg PO QHS 
RX *gabapentin 300 mg 1 capsule(s) by mouth at bedtime Disp #*30 
Capsule Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg ___ tablet(s) by mouth q4-6h Disp #*50 Tablet 
Refills:*0 
5.  ClonazePAM 0.5 mg PO BID:PRN anxiety  
6.  Venlafaxine XR 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right foot multiple fractures, open first metatarsal fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
It was a pleasure taking care of you at ___. You were admitted 
to the Podiatric Surgery service after your right foot surgery. 
You were given IV antibiotics while here and are being 
discharged on oral antibiotics. You are being discharged home 
with the following instructions: 

ACTIVITY:
There are restrictions on activity. Please remain non weight 
bearing to your Right foot until your follow up appointment. You 
should keep this site elevated when ever possible (above the 
level of the heart!) Please keep your splint intact. 

No driving until cleared by your Surgeon.

PLEASE CALL US IMMEDIATELY FOR ANY OF THE FOLLOWING PROBLEMS:
Redness in or drainage from your leg wound(s).
New pain, numbness or discoloration of your foot or toes.
Watch for signs and symptoms of infection. These are: a fever 
greater than 101 degrees, chills, increased redness, or pus 
draining from the incision site. If you experience any of these 
or bleeding at the incision site, CALL THE DOCTOR.

EXERCISE
Limit strenuous activity for 6 weeks.
No heavy lifting greater than 20 pounds for the next ___ days.
Try to keep leg elevated when able.

BATHING/SHOWERING:
You may shower immediately upon coming home, but you must keep 
your dressing CLEAN, DRY and INTACT. You can use a shower bag 
taped around your ankle/leg or hang your foot/leg outside of the 
bathtub. 

Avoid taking a tub bath, swimming, or soaking in a hot tub for 4 
weeks after surgery or until cleared by your physician.

MEDICATIONS:
Unless told otherwise you should resume taking all of the 
medications you were taking before surgery. 
Remember that narcotic pain meds can be constipating and you 
should increase the fluid and bulk foods in your diet. (Check 
with your physician if you have fluid restrictions.) If you feel 
that you are constipated, do not strain at the toilet. You may 
use over the counter Metamucil or Milk of Magnesia. Appetite 
suppression may occur; this will improve with time. Eat small 
balanced meals throughout the day. 

DIET:
There are no special restrictions on your diet postoperatively. 
Poor appetite is not unusual for several weeks and small, 
frequent meals may be preferred.

FOLLOW-UP APPOINTMENT:
Be sure to keep your medical appointments. 
If a follow up appointment was not made prior to your discharge, 
please call the office on the first working day after your 
discharge from the hospital to schedule a follow-up visit. This 
should be scheduled on the calendar for seven to fourteen days 
after discharge. Normal office hours are ___ 
through ___.
PLEASE FEEL FREE TO CALL THE OFFICE WITH ANY OTHER CONCERNS OR 
QUESTIONS THAT MIGHT ARISE.

 
Followup Instructions:
___